US05102890
The procedure is as in Example 30, but starting with 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone (6.4 g) in methylene chloride (320 cc), pyridine (48 cc) and butyryl chloride (12.8 g). After one recrystallization in isopropyl ether followed by two recrystallizations in acetonitrile, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl butyrate (3.4 g), m.p. 140° C., is obtained.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone | 6.4 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
reactant | butyryl chloride | 12.8 g | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 320 cc | C(Cl)Cl | CH2Cl2
solvent | pyridine | 48 cc | N1=CC=CC=C1 | C5H5N
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl butyrate | 3.4 g | C(CCC)(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C20H16ClN3O3
